US05093332
Toluenesulfonyl chloride (1.91 g, 10 mmol) was added portionwise over 50 minutes to a cold (-10° C. to -5° C.) solution of 3-(2-hydroxyethyl)-2,3-dihydro-4,4-dioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine (1.56 g, 5 mmol) in pyridine (10 ml). This solution was stirred for about 0.5 hr as the temperature rose to 0° C., then isobutylamine (10 ml) was added. The resulting solution was heated at 100° C. overnight. The reaction mixture was concentrated to dryness, and the residue was treated with chloroform. The resulting white solid, 1.7 g, was dissolved in a minimum amount of water, the pH was adjusted to 7.5 and the solution was extracted with ethyl acetate. The organic layer was washed with brine and dried over sodium sulfate. After removal of the dried solvent, the residue was dissolved in ethanol and treated with excess ethanolic hydrogen chloride. Ether was added to the cloud point and the mixture aged for 18 hours. The resulting solid was collected and dried to yield 1.2 g 3-(2-isobutylaminoethyl)-2,3-dihydro-4,4-dioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine hydrochloride, mp 263°-265° C.

reactant | Toluenesulfonyl chloride | 10 mmol, 1.91 g | C=1(C(=CC=CC1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 3-(2-hydroxyethyl)-2,3-dihydro-4,4-dioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine | 5 mmol, 1.56 g | OCCC1CNC2=C(S1(=O)=O)SC(=C2)S(N)(=O)=O | C8H12N2O5S3
reactant | isobutylamine | 10 ml | C(C(C)C)N | C4H11N
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | 3-(2-isobutylaminoethyl)-2,3-dihydro-4,4-dioxo-6-sulfamoyl-1H-thieno[2,3-b][1,4]thiazine hydrochloride | 1.2 g | Cl.C(C(C)C)NCCC1CNC2=C(S1(=O)=O)SC(=C2)S(N)(=O)=O | InChI=1S/C12H21N3O4S3.ClH/c1-8(2)6-14-4-3-9-7-15-10-5-11(22(13,18)19)20-12(10)21(9,16)17;/h5,8-9,14-15H,3-4,6-7H2,1-2H3,(H2,13,18,19);1H
